Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zestril
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ YO F with history of HTN, HLD, RBBB, T2DM, CKD (bl cr 1.6), 
hypothyroidism, ILD on home O2, prior PE not on AC, and 
pancreatic cancer on chemotherapy who presented to ___ ED with 
complaints of nausea (no vomiting), diarrhea, and crampy 
abdominal pain.  

Patient was in usual state of health until ~2 weeks ago, and had 
finished her last cycle of chemoradiation on ___. ~ 2 weeks ago 
she noted intermittent palpitations, without chest pain or SOB, 
without clear precipitating factors. Shortly after she noted 
diarrhea, described as reddish-brown, mucusy, and more forceful 
than the diarrhea she had had previously with chemotherapy; with 
associated nausea without vomiting responsive to Zofran, and 
some crampy abdominal pain. She had some associated 
lightheadedness and polyuria, without dysuria. No recent travel 
or prolonged immobilization, no recent injury to legs or 
anywhere else. Has a chronic cough and had some chills 
associated with diarrhea, no fevers or new cough/congestion. 
Because of concern for the intensity of her symptoms, she 
decided to come into the ED for evaluation. 

In ED initial VS: 96.7 79/59 99 18 97/NC  
Exam: Tachy reg rhythm; CTABL; soft ntnd; CN ___ intact; 
Rectal: brown stool 

Labs notable for:
Trop 0.02-> <0.01 
BNP 459
Lactate 2.4-> 1.0
Cr 1.9, bicarb 20, glucose 56, otherwise nl chem 7
AST 68, alb 3.3, otherwise nl LFTs 
WBC 12.4, hb 9.7
nl coags
no e/o infection on UA

Imaging notable for:  
-CTA: 
1. There is a thrombus seen within the left main pulmonary 
artery which is seen extending into the lingula left lower lobe. 
Chronicity is uncertain due to lack of contrast enhanced prior 
exams, although patient has history of pulmonary embolus.
2. There is similar appearance of a known pancreatic cystic mass 
along the pancreatic body and tail, compared to the prior study 
in ___.
3. 7.0 x 3.6 x 3.6 cm fluid collection is seen at the level of 
the right greater trochanter, possibly representing bursal 
fluid.
-CXR: Pulmonary fibrosis is noted left greater than right with 
similar distribution as compared with the prior CT chest. No 
definite signs of a superimposed pneumonia though evaluation is 
somewhat limited given background lung disease. No large 
effusion or pneumothorax. Heart is at least top-normal in size. 
Mediastinal contour appears unremarkable though there is an 
unfolded and partially calcified thoracic aorta noted. Bony 
structures are intact. No free air below the right 
hemidiaphragm. 
-EKG: wide-complex tachycardia, HR 130, right-axis deviation, 
and RBBB; tachycardia initially irregular with HR ~150 bpm then 
sinus tachycardia at ~100 bpm.

Consults: Cardiology: would not treat heart rate specifically. 
Instead would investigate for underlying cause of tachycardia 
and treat accordingly. Tachycardia likely responsive. 
Addendum: found to have PE, recommend MASCOT evaluation in AM 
for further management.  

Patient was given 3L NS, dextrose, and started on heparin GTT 

VS prior to transfer: 98.7 123/56 110 26 98/nc 
 
On arrival to the MICU, patient reports some abdominal cramping 
and R leg cramping, but otherwise feels well. 

 
Past Medical History:
HTN  
ILD w/ pulmonary hypertension: requires 2.5 liters of oxygen 
overnight and 3 liters with activity.  
Sleep apnea wears 2.5L O2 at night.  
Diabetes  
Hyperlipidemia  
LBP/sciatica and intermittent pain in Lthigh and some  
Intermittent numbness L foot  
Endometrial hyperplasia and uterine fibroid  
Depression - with mult hospitalizations  
Seasonal allergies  
ADD  
Left knee pain-?chondromalacia
 
Social History:
___
Family History:
Non-contributory, no fam hx ILD.  

 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
=========================
VITALS: 99.5 126/66 106 22 98/RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: diffuse fine crackles bilaterally
CV: tachycardic irregular rate, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; positive ___ sign on R.   
SKIN: small ecchymoses, no major lesions 
NEURO: CN ___ intact, strength ___ and sensation intact 
throughout 

=========================
DISCHARGE PHYSICAL EXAM
=========================
PHYSICAL EXAM:
Vitals: 98.5 110/63 83 24 98% 3 L  
General: alert, oriented, no acute distress
HEENT: sclera anicteric, MMM
Lungs: lungs with diffuse crackles, no rhonchi, no wheeze
CV: tachycardic, normal S1 + S2, ___ systolic murmur, no rubs,
gallops
Abdomen: soft, non-tender, residual LLQ bruise at previous
Lovenox injection site
Ext: warm, well-perfused, no ___ edema b/l
Neuro: EOMI. Symmetric smile, grimace, shoulder shrug. ___
strength b/l UE. ___ strength b/l ___.

 
Pertinent Results:
ADMISSION LABS
___ 04:50PM   ___ PTT-18.8* ___
___ 04:50PM   PLT COUNT-234#
___ 04:50PM   NEUTS-70.8 LYMPHS-15.6* MONOS-10.3 EOS-2.4 
BASOS-0.3 IM ___ AbsNeut-8.81*# AbsLymp-1.94 AbsMono-1.28* 
AbsEos-0.30 AbsBaso-0.04
___ 04:50PM   WBC-12.4*# RBC-3.02* HGB-9.7* HCT-29.7* 
MCV-98 MCH-32.1* MCHC-32.7 RDW-16.1* RDWSD-58.7*
___ 04:50PM   ALBUMIN-3.3* CALCIUM-10.4* PHOSPHATE-4.5 
MAGNESIUM-1.9
___ 04:50PM   proBNP-459*
___ 04:50PM   cTropnT-0.02*
___ 04:50PM   LIPASE-15
___ 04:50PM   ALT(SGPT)-15 AST(SGOT)-68* ALK PHOS-53 TOT 
BILI-0.3
___ 04:50PM   GLUCOSE-56* UREA N-23* CREAT-1.9* SODIUM-136 
POTASSIUM-4.8 CHLORIDE-100 TOTAL CO2-20* ANION GAP-21*
___ 05:10PM   LACTATE-2.4*
___ 05:10PM   COMMENTS-GREEN TOP
___ 08:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:25PM URINE  UHOLD-HOLD
___ 08:25PM URINE  HOURS-RANDOM
___ 11:39PM   cTropnT-<0.01
___ 11:43PM   LACTATE-1.0
___ 11:43PM   COMMENTS-GREEN TOP
___ 02:45AM   ___ PTT-150* ___
___ 02:45AM   PLT COUNT-201
___ 02:45AM   WBC-9.7 RBC-2.96* HGB-9.4* HCT-29.7* MCV-100* 
MCH-31.8 MCHC-31.6* RDW-16.1* RDWSD-60.0*
___ 02:45AM STOOL  NoroGI-NEGATIVE NoroGII-NEGATIVE
___ 02:45AM   TSH-1.6
___ 02:45AM   ALBUMIN-3.1* CALCIUM-9.0 PHOSPHATE-3.3 
MAGNESIUM-1.8
___ 02:45AM   ALBUMIN-3.1* CALCIUM-9.0 PHOSPHATE-3.3 
MAGNESIUM-1.8
___ 02:45AM   GLUCOSE-82 UREA N-18 CREAT-1.5* SODIUM-142 
POTASSIUM-3.3 CHLORIDE-108 TOTAL CO2-23 ANION GAP-14
___ 10:15AM   PTT-87.8*
___ 06:30PM   PTT-73.5*

IMAGING:

___ CTA CHEST/ABDOMEN  
1. There is a thrombus seen within the left main pulmonary 
artery which is 
seen extending into the lingula left lower lobe.  There is mild 
right heart 
strain with pulmonary artery hypertension. 
2. known pancreatic mass along the pancreatic body with 
dilatation of the main 
pancreatic duct for which further evaluation with MRI/MRCP may 
be performed. 
3. Interstitial lung disease is again seen in the upper lobes 
and lower lobes 
bilaterally with superimposed opacities which are concerning for 
multifocal 
infection. 
4. Ovoid fluid collection measuring 7 x 3.6 cm of abutting the 
right greater 
trochanter for which percutaneous drainage may be performed to 
exclude 
infection.  No CT evidence for osteomyelitis at this time. 

___ CXR
AP portable upright view of the chest. 
Pulmonary fibrosis is noted left greater than right with similar 
distribution as compared with the prior CT chest.  No definite 
signs of a superimposed pneumonia though evaluation is somewhat 
limited given background lung disease. 
No large effusion or pneumothorax.  Heart is at least top-normal 
in size.  
Mediastinal contour appears unremarkable though there is an 
unfolded and 
partially calcified thoracic aorta noted.  Bony structures are 
intact.  No 
free air below the right hemidiaphragm. 
IMPRESSION: As above. 

___ TTE
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). The right 
ventricular cavity is mildly dilated with mild global free wall 
hypokinesis. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Mild (1+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is moderate pulmonary artery systolic hypertension. 
There is no pericardial effusion. 
 IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. Mild mitral regurgitation. 
Moderate pulmonary hypertension.
 Compared with the prior study (images reviewed) of ___, 
there is more tricuspid regurgitation and esimated pulmonary 
pressures are higher, consistent with the given interim history 
of pulmonary embolism.  

Discharge Labs:
___ 08:48AM BLOOD ___ PTT-70.6* ___
 
Brief Hospital Course:
___ with h/o HTN, HLD, RBBB, T2DM, CKD (baseline Cr 1.6), 
hypothyroidism, ILD on home O2, prior PE not on AC, and 
pancreatic cancer on chemotherapy who was admitted to MICU w/ PE 
and ?pneumonia, as well as hypotension (resolved in MICU) and 
diarrhea of unknown source, then transferred to floor for mgmt 
of PE and diarrhea.

=====================
ACUTE ISSUES
=====================

# Pulmonary embolus:
Patient presented to MICU with hypotension, with mild trop leak, 
tachycardia. Tachycardia and hypotension responsive to fluids, 
with resolution of hemodynamic instability. CTA demonstrated 
large thrombus in L main pulmonary artery, however, after 
reviewing with a multidisciplinary cardiology and pulmonary 
team, it was thought that her tachycardia and hypotension were 
more likely related to her GI symptoms / hypovolemia than to her 
PE. Furthermore, the chronicity of her PE was unclear from her 
imaging and it was thought that the PE may not have been acute 
at the time of presentation. Her O2 requirement was at baseline 
and as below her tachycardia/hypotension responded promptly to 
IVF. Echo ___ showed increased tricuspid regurg, incr estimated 
pulm pressures, c/w recent PE; but no thrombus in transit. She 
was started on a heparin gtt ___ which was transitioned to 
Lovenox 1mg/kg BID ___. This is second PE (first in ___ so 
will need lifelong A/C. Per Dr. ___ transition 
to Lovenox with target antiXa level 0.6-1. We titrated Lovenox 
dose to 70mg BID, but supratherapeutic ___ antiXa level 1.44) 
and hard to titrate to correct antiXa range given fluctuating 
renal function so Lovenox d/c'ed. Starting ___ began warfarin 
with heparin drip as bridge. Final warfarin regimen is 5 mg 
daily for target INR ___.

# SVT
Per MASCOT note ___ was found to have SVTs i/s/o PE. Recorded 
SVT episode 0200 ___, broke with metoprolol 5mg IV followed by 
metoprolol 6.25mg PO Q6H. Seems likely to be an AVNRT given most 
severe episode on ___ found to be started and stopped by PACs. 
Patient was on metoprolol tartrate 6.25mg PO Q6H from ___, 
started on metoprolol succinate 25mg PO ___, uptitrated to 
metoprolol succinate 50mg PO ___.

# Hypotension, tachycardia: Patient presented hypotensive to 
79/59 and tachycardic. Hypotension and tachycardia were 
responsive to 3L IVF, suggesting component of 
diarrhea/hypovolemia. While in the MICU her BPs were stable with 
SBPs in 120s, and patient remained normotensive on the floor.

# Crampy abdominal pain 
# Nausea/Vomiting/Diarrhea
# Leukocytosis
No acute findings on CT abdomen c/f intrabdominal pathology. 
Legionella negative. C. diff negative. Stool cultures negative. 
Her diarrhea may have been due to a viral gastroenteritis which 
improved during her stay. Pt was c. diff/noro negative and 
responded to loperamide. Loperamide changed to PRN ___ after no 
BM for 3 days. Patient did not have diarrhea after ___, and 
required senna for regular BM.

# ? CAP
Patient has had chronic cough since onset of diarrhea, as well 
as CT chest findings concerning for infectious process. 
Legionella urine antigen negative. Patient received benzonatate 
and CAP coverage with ceftriaxone (___) and azithromycin 
(___).

# ___
Cr 1.9 from baseline 1.6 likely prerenal, ___ resolved and Cr 
returned to baseline with fluids.

=====================
CHRONIC ISSUES
=====================

# ILD
Patient with known ILD on 3L@rest/5L@walking home O2. She 
remained on baseline O2 despite PE. Continued prednisone 10mg 
daily, loratadine, albuterol nebs PRN. 

# Pancreatic cancer: Has known pancreatic adenocarcinoma stage 
IB (T2N0M0). Started on chemoradiation with capecitabine 1500 mg 
PO BID M-F ___ - ___.  Continued APAP, oxycodone PRN for 
pain control, Zofran for nausea. 

# Anemia: close to recent baseline. 

# Hypothyroidism: continue synthroid

# DM2: held glipizide and repaglinide, HISS while inpatient

# HTN: Valsartan held ISO PE w/ hypotension, continued to hold 
because started on metop succinate 50mg PO QD.

# HLD/cardioprotection: Continued Atorvastatin, ASA

# Psych: continued lorazepam, risperidone, bupropion, 
escitalopram

# GERD: continued omeprazole

============================
TRANSITIONAL ISSUES
============================
- next INR on ___ 
- Called PCP regarding transition: next month patient's PCP ___ 
retire and she will be transferred to care of new PCP hire ___ 
(in hiring process).
- We appreciate the PCP office referral to Cardiology for 
follow-up of new SVT in setting of her PE.
- There was a greater trochanter fluid collection noted on CTA 
for PE: "Ovoid fluid collection measuring 7 x 3.6 cm of abutting 
the right greater trochanter for which percutaneous drainage may 
be performed to exclude infection. No CT evidence for 
osteomyelitis at this time." Asymptomatic. Consider follow up 
imaging.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE 10 mg PO DAILY 
2. LORazepam 0.5 mg PO DAILY 
3. Valsartan 40 mg PO BID 
4. RisperiDONE 0.5 mg PO DAILY 
5. Repaglinide 2 mg PO BIDWM 
6. Omeprazole 20 mg PO DAILY 
7. Escitalopram Oxalate 20 mg PO DAILY 
8. BuPROPion 100 mg PO BID 
9. Atorvastatin 40 mg PO QPM 
10. Fluticasone Propionate NASAL 1 SPRY NU BID 
11. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
12. Levothyroxine Sodium 75 mcg PO DAILY 
13. Acetaminophen 1000 mg PO Q8H 
14. Aspirin 81 mg PO DAILY 
15. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral BID 
16. Vitamin D 1000 UNIT PO BID 
17. Dextromethorphan Polistirex Dose is Unknown  PO Frequency is 
Unknown 
18. Ondansetron 8 mg PO Q8H:PRN nausea 
19. PredniSONE 10 mg PO DAILY 
20. LOPERamide 2 mg PO QID:PRN diarrhea 
21. Loratadine 10 mg PO DAILY 
22. Prochlorperazine 10 mg PO QID 
23. Nystatin Ointment 1 Appl TP BID 
24. Benzonatate 100 mg PO TID:PRN cough 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
2.  Metoprolol Succinate XL 25 mg PO DAILY  
3.  Dextromethorphan Polistirex ___ mg PO Q12H:PRN cough  
4.  Acetaminophen 1000 mg PO Q8H  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Benzonatate 100 mg PO TID:PRN cough  
8.  BuPROPion 100 mg PO BID  
9.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral BID  
10.  Escitalopram Oxalate 20 mg PO DAILY  
11.  Fluticasone Propionate NASAL 1 SPRY NU BID  
12.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
13.  GlipiZIDE 10 mg PO DAILY  
14.  Levothyroxine Sodium 75 mcg PO DAILY  
15.  LOPERamide 2 mg PO QID:PRN diarrhea  
16.  Loratadine 10 mg PO DAILY  
17.  LORazepam 0.5 mg PO DAILY  
18.  Nystatin Ointment 1 Appl TP BID  
19.  Omeprazole 20 mg PO DAILY  
20.  Ondansetron 8 mg PO Q8H:PRN nausea  
21.  PredniSONE 10 mg PO DAILY  
22.  Prochlorperazine 10 mg PO QID  
23.  Repaglinide 2 mg PO BIDWM  
24.  RisperiDONE 0.5 mg PO DAILY  
25.  Valsartan 40 mg PO BID  
26.  Vitamin D 1000 UNIT PO BID  

1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puff inh q4hr prn 
Disp #*1 Inhaler Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Dextromethorphan Polistirex ___ mg PO Q12H:PRN cough  
5.  Acetaminophen 1000 mg PO Q8H  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Benzonatate 100 mg PO TID:PRN cough  
9.  BuPROPion 100 mg PO BID  
10.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral BID  
11.  Escitalopram Oxalate 20 mg PO DAILY  
12.  Fluticasone Propionate NASAL 1 SPRY NU BID  
13.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
14.  GlipiZIDE 10 mg PO DAILY  
15.  Levothyroxine Sodium 75 mcg PO DAILY  
16.  LOPERamide 2 mg PO QID:PRN diarrhea  
17.  Loratadine 10 mg PO DAILY  
18.  LORazepam 0.5 mg PO DAILY  
19.  Nystatin Ointment 1 Appl TP BID  
20.  Omeprazole 20 mg PO DAILY  
21.  Ondansetron 8 mg PO Q8H:PRN nausea  
22.  PredniSONE 10 mg PO DAILY  
23.  Prochlorperazine 10 mg PO QID  
24.  Repaglinide 2 mg PO BIDWM  
25.  RisperiDONE 0.5 mg PO DAILY  
26.  Vitamin D 1000 UNIT PO BID  
27. HELD- Valsartan 40 mg PO BID  This medication was held. Do 
not restart Valsartan until you discuss with your primary doctor 


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=======================
# PE
# SVT
# Diarrhea

SECONDARY DIAGNOSES
=======================
# ILD
# Pancreatic cancer
# HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- you had diarrhea and was not drinking enough fluids, leading 
to dehydration and low blood pressure
- when you came to the hospital you were also found to have a 
blood clot in your lungs

WHAT WAS DONE FOR ME IN THE HOSPITAL?
- you received fluids and supportive care until your diarrhea 
resolved and your blood pressure returned to normal
- you also received blood thinners to dissolve the clot in your 
lungs
- you were started on long-term blood thinners (warfarin) to 
prevent future clots
- while in the hospital you were found to have a new heart 
arrhythmia related to the clot in your lung, which we are 
treating with a medication (Metoprolol) to slow down your heart 
rate. Your PCP's office will set you up with a Cardiologist to 
further manage your new heart condition.

WHAT SHOULD I DO WHEN I GO BACK TO ASSISTED LIVING?
It is very important to drink more fluids so that you can stay 
hydrated and prevent your blood pressure from dropping. We have 
arranged for your visiting nurse to weigh you regularly to make 
sure you are taking enough in, and to check labs to make sure 
you blood is thin enough on warfarin. Please continue to take 
your Metoprotol for your heart arrhythmia.

Do not restart your valsartan until you discuss with your 
primary doctor. 

It was a pleasure being involved in your care.

Sincerely,
Your ___ Team
 
Followup Instructions:
___